US05143919
A mixture of ethyl 4-(2-chlorophenyl)-6,7-dihydro-2-ethyl-7-methyl-6-oxothieno[2,3-b]pyridine-5-carboxylate (1.10 g), KOH (0.49 g) and 80% ethanol (10 ml) was heated at 80° C. for 20 minutes and water was added. Then, the mixture was made acidic with 2N HCl and extracted with ethyl acetate. The extract was washed with water and dried over MgSO4, and then the solvent was distilled off. To the residue was added hexane to obtain 4-(2-chlorophenyl)-6,7-dihydro-2-ethyl-7-methyl-6-oxothieno[2,3-b]pyridine-5-carboxylic acid as crystals (0.91 g, 89.3%). The crystals were recrystallized from ethanol to obtain colorless prisms, mp: 155°-156° C.

reactant | ethyl 4-(2-chlorophenyl)-6,7-dihydro-2-ethyl-7-methyl-6-oxothieno[2,3-b]pyridine-5-carboxylate | 1.10 g | ClC1=C(C=CC=C1)C=1C2=C(N(C(C1C(=O)OCC)=O)C)SC(=C2)CC | C19H18ClNO3S
reactant | KOH | 0.49 g | [OH-].[K+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
product | 4-(2-chlorophenyl)-6,7-dihydro-2-ethyl-7-methyl-6-oxothieno[2,3-b]pyridine-5-carboxylic acid | 0.91 g, 89.3% | ClC1=C(C=CC=C1)C=1C2=C(N(C(C1C(=O)O)=O)C)SC(=C2)CC | C17H14ClNO3S
